US04673676
A suspension of ethyl 11-amino-8-bromo-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylate (500 mg), in a mixture of acetic acid (25 ml) and 36% hydrochloric acid (5 ml) was heated at 80° C. for 3 hours. The mixture was cooled and diluted with water. The precipitated solid obtained was collected and dissolved into N,N-dimethylformamide (30 ml). The solution was added to an aqueous sodium bicarbonate solution (15 ml). The resulting precipitate was collected, and then dissolved in N,N-dimethylformamide (130 ml). The solution was filtered for removal of insoluble materials. The filtrate obtained was acidified with acetic acid to give 11-amino-8-bromo-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylic acid (180 mg).

reactant | ethyl 11-amino-8-bromo-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylate | 500 mg | NC=1C=CC(=C2C=CN3C(C12)=NC=C(C3=O)C(=O)OCC)Br | C15H12BrN3O3
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 5 ml | Cl | ClH
solvent | water | O | H2O
product | 11-amino-8-bromo-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylic acid | 180 mg | NC=1C=CC(=C2C=CN3C(C12)=NC=C(C3=O)C(=O)O)Br | C13H8BrN3O3
